US07951805B2
To a degassed sample of 4-methylenepiperidine-1-carboxylic acid tert-butyl ester (0.527 g, 2.67 mmol) was added 9-borabicyclic[3,3,1]nonane (5.6 mL of a 0.5 M solution in THF, 2.8 mmol). The resulting solution was refluxed for 1 hour. After cooling to ambient temperature, the solution was added to a mixture of 1-iodo-2-trifluoromethylbenzene (0.707 mg, 2.600 mmol), Pd-catalyst (3 mol %), DMF (25 mL), water (1 mL), and K2CO3 (0.6 g). The resulting mixture was heated at 60° C. for 3 hours. The mixture was cooled to ambient temperature and then poured into water. The pH of the solution was adjusted to 11 with 10% NaOH solution and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine and dried over Na2SO4, filtered, and evaporated to give a crude oil, which was further purified by column chromatography to afford 4-(2-trifluoromethylbenzyl)piperidine-1-carboxylic acid tert-butyl ester as a waxy solid (0.638 g) in 70% yield.

reactant | 4-methylenepiperidine-1-carboxylic acid tert-butyl ester | 2.67 mmol, 0.527 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C | C11H19NO2
reactant | 1-iodo-2-trifluoromethylbenzene | 2.600 mmol, 0.707 mg | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
reactant | K2CO3 | 0.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd | [Pd] | Pd
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-(2-trifluoromethylbenzyl)piperidine-1-carboxylic acid tert-butyl ester | 70% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=C(C=CC=C1)C(F)(F)F | C18H24F3NO2
